US04105776
Ethyl chloroformate (1.2 g.) is added to a solution of 3-mercaptopropanoyl-L-proline (2.03 g.) in normal sodium bicarbonate (30 ml.) and the mixture is stirred vigorously at 5° for one hour, and for two hours at room temperature. After acidification with concentrated hydrochloric acid, the mixture is extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate, and concentrated to dryness to yield 1-[3-[[(ethoxy)carbonyl]thio]propanoyl]-L-proline.

reactant | Ethyl chloroformate | 1.2 g | ClC(=O)OCC | C3H5ClO2
reactant | 3-mercaptopropanoyl-L-proline | 2.03 g | SCCC(=O)N1[C@H](C(=O)O)CCC1 | C8H13NO3S
solvent | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
product | 1-[3-[[(ethoxy)carbonyl]thio]propanoyl]-L-proline | C(C)OC(=O)SCCC(=O)N1[C@H](C(=O)O)CCC1 | C11H17NO5S
